Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Codeine / Paroxetine
 
Attending: ___.
 
Chief Complaint:
hypotension, tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y.o. F with HTN, HLD, anxiety, L.
breast cancer s/p L. axillary and sentinel node dissection +
radiation (___), R. brachial plexus injury at birth who
presents with reported tachycardia and hypotension at her rehab
and is now being admitted on ___ for further evaluation 
of
her tachycardia, hypotension. 

Per EMS, her HR was elevated to 180s, and BP was recorded as
64/52 on ___ at ~1300pm. Per a nurse at her facility (___
Residence @___), her VS an hour later were as follows:
BP 103/70, HR 118. She became hypotensive again overnight to
88/58, with HR 107, and refused VS in the morning. During these
episodes, she complained of weakness, but was otherwise
asymptomatic. The rehab physician was contacted at night and
d/c'ed her diltiazem which had recently been started during a
hospitalization in ___, and started her on digoxin 0.125mg
qd. This morning, pt refused vital signs and she was 
subsequently
sent to the ED for further monitoring of VS. Notably, her son
tells us she has poor fluid intake and he is constantly 
reminding
her to take in more fluids. 

Of note, she was recently admitted to the Neurology service from
___. She was admitted for word-finding difficulty and
transient blank staring, which was thought to be ___ anxiety;
prior to these episodes, she was not filling her prn clonazepam.
Stroke, TIA, and seizure were thought to be less likely, based 
on
w/u. Her hospital course was c/b several long runs of SVT for
which she was initially treated with IV and PO metoprolol, which
were not effective. She was started on diltiazem which was
uptitrated to dilt ER 180mg qd. She was initiated on baby ASA 
and
diltiazem for rate control, and her home statin was discontinued
due concern for interaction with diltiazem.

She reports mild dysuria toward the end of her urinary stream, 
as
well as urinary frequency, but states this is a chronic issue
that has been going on for months. She also endorses
non-productive cough when she does not take her home
anti-histamine. Denies HA, fever, chills, night sweats,
rhinorrhea, sore throat, CP, palpitations, abd pain, nausea,
vomiting, diarrhea, constipation, cold/heat intolerance, 
episodes
in which she becomes diaphoretic, dysuria, urinary incontinence
or urgency.
 
Past Medical History:
Breast cancer s/p resection and radiation therapy
HTN
HLD
Anxiety with panic attacks
Osteoporosis
L5 subluxation
R. brachial plexus injury at birth 
Carpal tunnel
Shingles in the ophthalmic branch in the right side without
ocular involvement in ___
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: T 98.4, BP 149/84, HR 105, RR 17, SpO2 95& RA
GENERAL: Alert and interactive. Well-appearing. In no acute
distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: ?Irregular rhythm (no prior documented h/o afib),
tachycardic. Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No suprapubic tenderness.
EXTREMITIES: warm, dorsalis pedis pulses 2+ b/l. No clubbing,
cyanosis, or edema. 
SKIN: No visible rash. 
NEUROLOGIC: A&Ox3. CN2-12 grossly intact. No appreciable focal
neurologic deficits. Conversational, no word-finding 
difficulties
appreciated on exam.

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 97.9 PO 123/80 L Lying 97 18 97 Ra 
GENERAL: Alert and interactive. Well-appearing. Coughing
intermittently
HEENT: NCAT. PERRL, EOMI. 
CARDIAC: regular rhythm, tachycardic. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. 
ABDOMEN: Normal bowels sounds, non distended,
EXTREMITIES: warm, chronic weakness in RUE, 1+ pitting edema to
mid calf
SKIN: No visible rash. 
NEUROLOGIC: A&Ox3. CN2-12 grossly intact. No appreciable focal
neurologic deficits. Conversational, no word-finding 
difficulties
appreciated on exam.

 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 10:35AM BLOOD WBC-6.0 RBC-4.29 Hgb-13.5 Hct-41.8 MCV-97 
MCH-31.5 MCHC-32.3 RDW-13.5 RDWSD-48.1* Plt ___
___ 10:35AM BLOOD Glucose-111* UreaN-24* Creat-0.9 Na-139 
K-5.5* Cl-102 HCO3-27 AnGap-10
___ 10:35AM BLOOD Calcium-9.1 Phos-3.9 Mg-2.1

DISCHARGE LAB RESULTS
=====================
___ 07:16AM BLOOD WBC-7.3 RBC-4.29 Hgb-13.3 Hct-40.8 MCV-95 
MCH-31.0 MCHC-32.6 RDW-13.4 RDWSD-46.8* Plt ___
___ 06:46AM BLOOD Glucose-101* UreaN-14 Creat-0.8 Na-145 
K-5.4 Cl-105 HCO3-27 AnGap-13

IMAGING
=======
___ CXR
No convincing evidence for pneumonia.  Likely background 
emphysema.

MICROBIOLOGY
============
___ Urine Culture
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
Ms. ___ is a ___ y.o. F with HTN, HLD, anxiety, L. 
breast cancer s/p L. axillary and sentinel node dissection 
+radiation (___), R. brachial plexus injury at birth who 
presents with reported hypotension at rehab. She had several 
episodes of supraventricular tachycardia seen on telemetry. The 
patient was asymptomatic during these episodes. She remained 
hemodynamically stable. she was found to be orthostatic. She was 
given IV fluid boluses, which improved orthostatics. She was 
continued on diltiazem 180 mg daily. She tolerated this 
medication well.

#AVNRT 
As above, patient had several episodes of supraventricular 
tachycardia. She was asymptomatic and on the commode at this 
time. Electrophysiology was consulted, who recommended 
continuing diltiazem extended release 180 mg daily. They did not 
recommend any medication changes as the patient was asymptomatic 
during her episodes of SVT. Her blood pressures remained stable. 
We did find that she was taking a first generation antihistamine 
for her allergies, called chlorpheniramine - a Beer's list 
medication that should be avoided in adults over the age of ___ 
due to high risk of anticholinergic toxicity. We told her to 
stop taking this medication.

#Cough
The patient developed a dry cough while inpatient. This was in 
the setting of holding her home allergy medication. It is 
possible that her home allergy medication was contributing to 
her tachycardia (she was taking chlorpheniramine, a Beer's list 
medication that should be avoided in adults over the age of ___ 
due to high risk of anticholinergic toxicity). She was started 
on cetirizine while inpatient and instructed not to take 
chlorpheniramine anymore. The patient refused nasal sprays while 
inpatient.

#Orthostatic hypotension
Patient was found to have very mild orthostatic hypotension. She 
was asymptomatic during the checks. She was given two 500 cc 
boluses of IV fluid. Her orthostatic hypotension resolved. TSH 
was normal. B12 was normal. The patient was encouraged to 
continue to have good p.o. intake.

#UTI
The patient presented with acute on chronic dysuria. UA 
concerning for urinary tract infection. She was given 
ceftriaxone for 3 days from ___.

#Anxiety
Continued home clonazepam 0.5mg bid 

> 30 minutes spent on discharge-related activities today.

TRANSITIONAL ISSUES
===================
- Cetirizine was started for patient's allergies. She should 
continue taking this medication or another second generation 
antihistamine and avoid taking first generation antihistamines 
due to anticholinergic toxicity.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID anxiety 
2. Aspirin 81 mg PO DAILY 
3. Digoxin 0.125 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO BID 
RX *cetirizine 10 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Diltiazem Extended-Release 180 mg PO DAILY 
RX *diltiazem HCl 180 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  ClonazePAM 0.5 mg PO BID anxiety  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
- SVT/AVNRT
- Hypotension
- UTI

Secondary Diagnosis
- Allergies

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Ms. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you were found to have low 
blood pressure. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We treated you with antibiotics for three days for a urinary 
tract infection
- We also gave you IVF fluids because you were dehydrated
- We continued you on the Diltiazem medication to control your 
rapid heart rates. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- Please continue to take cetirizine for your allergies. This is 
a safer allergy medication. 

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___